US09447133B2
3,4,6-Tri-O-acetyl-D-glucal (5.0 g, 18.4 mmol) was dissolved in methanol (100 mL) and a solution of sodium methoxide in methanol (0.25 mL, 25% solution by weight, 1.1 mmol). The solution was stirred at room temperature for 3 hours. The solvent was removed and the resulting residue was co-evaporated with toluene (3×10 mL) before being taken up in a 4:1 solution of NMP:THF and cooled to 0° C. Solid NaH (3.3 g of 60% suspension, 82.5 mmol) was added and the mixture was stirred for 30 minutes before the addition of BnBr. The reaction mixture was stirred at room temperature overnight, quenched with methanol and the solvent removed. The residue was suspended in ethyl acetate, washed with 1 N HCl, brine, and saturated NaHCO3 (100 mL each). The ethyl acetate solution was dried over MgSO4, filtered and concentrated in vacuo. The crude material was purified on a silica gel column (80 g) using an ISCO automated chromatography system, eluting with a 0→50% gradient of ethyl acetate in heptane, to give 3,4,6-tri-O-benzyl-D-glucal (7.2 g, 94%).

reactant | 3,4,6-Tri-O-acetyl-D-glucal | 18.4 mmol, 5.0 g | C(C)(=O)O[C@@H]1C=CO[C@@H]([C@H]1OC(C)=O)COC(C)=O | C12H16O7
reactant | sodium methoxide | C[O-].[Na+]
reactant | NaH | 82.5 mmol, 3.3 g | [H-].[Na+]
reactant | BnBr | C1=CC=C(C=C1)CBr | C7H7Br
solvent | methanol | 100 mL | CO | CH4O
catalyst | methanol | 1.1 mmol, 0.25 mL | CO | CH4O
product | 3,4,6-tri-O-benzyl-D-glucal | 7.2 g, 94% | C(C1=CC=CC=C1)O[C@@H]1C=CO[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C27H28O4
